US04159331
A mixture of 7.88 g (0.0356 m) of p-nitrobenzenesulfonylchloride, 6.27 g (0.0356 m) of 1-(o-tolyl)piperazine, 4.96 ml (0.0356 m) of triethylamine, and 100 ml of tetrahydrofuran is stirred at room temperature for 18 hours. The solvent is then removed in vacuo and the residue is extracted with methylene chloride/aqueous sodium bicarbonate and brine. The organic layer is filtered through sodium sulfate and taken to dryness. Crystallization from methylene chloride/Skellysolve® B hexanes gives 9.51 g of 1-[(p-nitrophenyl)sulfonyl]-4-(o-methylphenyl)piperazine of melting point 176°-177.5° C. and 1.33 g of a second crop (84%).

reactant | p-nitrobenzenesulfonylchloride | 7.88 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 1-(o-tolyl)piperazine | 6.27 g | C1(=C(C=CC=C1)N1CCNCC1)C | C11H16N2
reactant | triethylamine | 4.96 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[(p-nitrophenyl)sulfonyl]-4-(o-methylphenyl)piperazine | 9.51 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)C | C17H19N3O4S
